* C:\Users\user\Desktop\python_spice\cfl_lamp\cfl_equiv.asc 
R1 N001 0 5251.89763790341 
D1 N003 N001 D 
D2 N004 N001 D 
D3 0 N003 D 
D4 0 N004 D 
C1 N001 0 -1.4917627008468761 
R2 N002 N003 48.20688487067979 
V1 N002 N004 SINE(0 170.83060321432882 60 0 0 -240.84000000000003) 
.model D D 
.lib C:\Users\user\Documents\LTspiceXVII\lib\cmp\standard.dio 
.options maxstep=1.25-5 
.tran 0 0.0512 
.backanno 
.end 
